US06066647
Trovafloxacin Zwitterion, Metastable Form
Trovafloxacin mesylate (prepared according to Example 13B of the '402 patent) (20 g) was stirred with demineralized water (100 mL). The crystal slurry was heated to about 50° C. and the slurry adjusted to a pH of about 8.0 by addition of saturated sodium bicarbonate solution. The slurry was held at about 50° C. for 30 minutes, allowed to cool to about 25° C. and stirred at this temperature for 30 minutes. The crystals were isolated by filtration and washed with demineralized water (27 mL). The wet crystals were suspended in demineralized water (100 mL) and stirred for about 1 hour at about 50° C., then cooled to about 20° C. and stirred at this temperature for about 1 hour. The crystals were filtered from the mother liquor, washed with demineralized water (about 27 mL) and dried to constant weight under vacuum at about 40° C. to yield the title product which contained 2.5% residual water by analysis. Yield 16.25 g, 97%.

reactant | Trovafloxacin mesylate | CS(=O)(=O)O.C1=CC(=C(C=C1F)F)N2C=C(C(=O)C=3C2=NC(=C(C3)F)N4C[C@@H]5[C@H](C4)[C@H]5N)C(=O)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 mL | O | H2O
product | Trovafloxacin | C1=CC(=C(C=C1F)F)N2C=C(C(=O)C=3C2=NC(=C(C3)F)N4C[C@@H]5[C@H](C4)[C@H]5N)C(=O)O | C20H15F3N4O3
